* Created by KLayout

* cell CLKBUF_X16
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT CLKBUF_X16 Y A vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS_mst
M$1 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 10.1,44.8 PMOS_mst
M$2 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $3 r0 *1 14.1,44.8 PMOS_mst
M$3 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $4 r0 *1 18.1,44.8 PMOS_mst
M$4 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $5 r0 *1 22.1,44.8 PMOS_mst
M$5 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $6 r0 *1 26.1,44.8 PMOS_mst
M$6 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $7 r0 *1 30.1,44.8 PMOS_mst
M$7 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $8 r0 *1 34.1,44.8 PMOS_mst
M$8 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $9 r0 *1 38.1,44.8 PMOS_mst
M$9 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $10 r0 *1 42.1,44.8 PMOS_mst
M$10 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $11 r0 *1 46.1,44.8 PMOS_mst
M$11 \$4 A vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $12 r0 *1 50.1,44.8 PMOS_mst
M$12 vdd A \$4 vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $13 r0 *1 54.1,44.8 PMOS_mst
M$13 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $14 r0 *1 58.1,44.8 PMOS_mst
M$14 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $15 r0 *1 62.1,44.8 PMOS_mst
M$15 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $16 r0 *1 66.1,44.8 PMOS_mst
M$16 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $17 r0 *1 70.1,44.8 PMOS_mst
M$17 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $18 r0 *1 74.1,44.8 PMOS_mst
M$18 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $19 r0 *1 78.1,44.8 PMOS_mst
M$19 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $20 r0 *1 82.1,44.8 PMOS_mst
M$20 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $21 r0 *1 86.1,44.8 PMOS_mst
M$21 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $22 r0 *1 90.1,44.8 PMOS_mst
M$22 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $23 r0 *1 94.1,44.8 PMOS_mst
M$23 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $24 r0 *1 98.1,44.8 PMOS_mst
M$24 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $25 r0 *1 102.1,44.8 PMOS_mst
M$25 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $26 r0 *1 106.1,44.8 PMOS_mst
M$26 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $27 r0 *1 110.1,44.8 PMOS_mst
M$27 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $28 r0 *1 114.1,44.8 PMOS_mst
M$28 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $29 r0 *1 118.1,44.8 PMOS_mst
M$29 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $30 r0 *1 122.1,44.8 PMOS_mst
M$30 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $31 r0 *1 126.1,44.8 PMOS_mst
M$31 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $32 r0 *1 130.1,44.8 PMOS_mst
M$32 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $33 r0 *1 134.1,44.8 PMOS_mst
M$33 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $34 r0 *1 138.1,44.8 PMOS_mst
M$34 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $35 r0 *1 142.1,44.8 PMOS_mst
M$35 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $36 r0 *1 146.1,44.8 PMOS_mst
M$36 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $37 r0 *1 150.1,44.8 PMOS_mst
M$37 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $38 r0 *1 154.1,44.8 PMOS_mst
M$38 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $39 r0 *1 158.1,44.8 PMOS_mst
M$39 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $40 r0 *1 162.1,44.8 PMOS_mst
M$40 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $41 r0 *1 166.1,44.8 PMOS_mst
M$41 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $42 r0 *1 170.1,44.8 PMOS_mst
M$42 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $43 r0 *1 174.1,44.8 PMOS_mst
M$43 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $44 r0 *1 178.1,44.8 PMOS_mst
M$44 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $45 r0 *1 182.1,44.8 PMOS_mst
M$45 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $46 r0 *1 186.1,44.8 PMOS_mst
M$46 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $47 r0 *1 190.1,44.8 PMOS_mst
M$47 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $48 r0 *1 194.1,44.8 PMOS_mst
M$48 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $49 r0 *1 198.1,44.8 PMOS_mst
M$49 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $50 r0 *1 202.1,44.8 PMOS_mst
M$50 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $51 r0 *1 206.1,44.8 PMOS_mst
M$51 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $52 r0 *1 210.1,44.8 PMOS_mst
M$52 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $53 r0 *1 214.1,44.8 PMOS_mst
M$53 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $54 r0 *1 218.1,44.8 PMOS_mst
M$54 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $55 r0 *1 222.1,44.8 PMOS_mst
M$55 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $56 r0 *1 226.1,44.8 PMOS_mst
M$56 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $57 r0 *1 230.1,44.8 PMOS_mst
M$57 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $58 r0 *1 234.1,44.8 PMOS_mst
M$58 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $59 r0 *1 238.1,44.8 PMOS_mst
M$59 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $60 r0 *1 242.1,44.8 PMOS_mst
M$60 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $61 r0 *1 246.1,44.8 PMOS_mst
M$61 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $62 r0 *1 250.1,44.8 PMOS_mst
M$62 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $63 r0 *1 254.1,44.8 PMOS_mst
M$63 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $64 r0 *1 258.1,44.8 PMOS_mst
M$64 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $65 r0 *1 262.1,44.8 PMOS_mst
M$65 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $66 r0 *1 266.1,44.8 PMOS_mst
M$66 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $67 r0 *1 270.1,44.8 PMOS_mst
M$67 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $68 r0 *1 274.1,44.8 PMOS_mst
M$68 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $69 r0 *1 278.1,44.8 PMOS_mst
M$69 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $70 r0 *1 282.1,44.8 PMOS_mst
M$70 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $71 r0 *1 286.1,44.8 PMOS_mst
M$71 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $72 r0 *1 290.1,44.8 PMOS_mst
M$72 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $73 r0 *1 294.1,44.8 PMOS_mst
M$73 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $74 r0 *1 298.1,44.8 PMOS_mst
M$74 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $75 r0 *1 302.1,44.8 PMOS_mst
M$75 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $76 r0 *1 306.1,44.8 PMOS_mst
M$76 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $77 r0 *1 310.1,44.8 PMOS_mst
M$77 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $78 r0 *1 314.1,44.8 PMOS_mst
M$78 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $79 r0 *1 318.1,44.8 PMOS_mst
M$79 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $80 r0 *1 322.1,44.8 PMOS_mst
M$80 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $81 r0 *1 326.1,44.8 PMOS_mst
M$81 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $82 r0 *1 330.1,44.8 PMOS_mst
M$82 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $83 r0 *1 334.1,44.8 PMOS_mst
M$83 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $84 r0 *1 338.1,44.8 PMOS_mst
M$84 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $85 r0 *1 342.1,44.8 PMOS_mst
M$85 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $86 r0 *1 346.1,44.8 PMOS_mst
M$86 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $87 r0 *1 350.1,44.8 PMOS_mst
M$87 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $88 r0 *1 354.1,44.8 PMOS_mst
M$88 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $89 r0 *1 358.1,44.8 PMOS_mst
M$89 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $90 r0 *1 362.1,44.8 PMOS_mst
M$90 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $91 r0 *1 366.1,44.8 PMOS_mst
M$91 Y \$4 vdd vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=15.3P PS=13.2U PD=13.2U
* device instance $92 r0 *1 370.1,44.8 PMOS_mst
M$92 vdd \$4 Y vdd PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $93 r0 *1 6.1,6.8 NMOS_mst
M$93 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $94 r0 *1 10.1,6.8 NMOS_mst
M$94 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $95 r0 *1 14.1,6.8 NMOS_mst
M$95 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $96 r0 *1 18.1,6.8 NMOS_mst
M$96 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $97 r0 *1 22.1,6.8 NMOS_mst
M$97 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $98 r0 *1 26.1,6.8 NMOS_mst
M$98 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $99 r0 *1 30.1,6.8 NMOS_mst
M$99 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $100 r0 *1 34.1,6.8 NMOS_mst
M$100 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $101 r0 *1 38.1,6.8 NMOS_mst
M$101 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $102 r0 *1 42.1,6.8 NMOS_mst
M$102 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $103 r0 *1 46.1,6.8 NMOS_mst
M$103 \$4 A gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $104 r0 *1 50.1,6.8 NMOS_mst
M$104 gnd A \$4 gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $105 r0 *1 54.1,6.8 NMOS_mst
M$105 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $106 r0 *1 58.1,6.8 NMOS_mst
M$106 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $107 r0 *1 62.1,6.8 NMOS_mst
M$107 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $108 r0 *1 66.1,6.8 NMOS_mst
M$108 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $109 r0 *1 70.1,6.8 NMOS_mst
M$109 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $110 r0 *1 74.1,6.8 NMOS_mst
M$110 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $111 r0 *1 78.1,6.8 NMOS_mst
M$111 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $112 r0 *1 82.1,6.8 NMOS_mst
M$112 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $113 r0 *1 86.1,6.8 NMOS_mst
M$113 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $114 r0 *1 90.1,6.8 NMOS_mst
M$114 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $115 r0 *1 94.1,6.8 NMOS_mst
M$115 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $116 r0 *1 98.1,6.8 NMOS_mst
M$116 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $117 r0 *1 102.1,6.8 NMOS_mst
M$117 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $118 r0 *1 106.1,6.8 NMOS_mst
M$118 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $119 r0 *1 110.1,6.8 NMOS_mst
M$119 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $120 r0 *1 114.1,6.8 NMOS_mst
M$120 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $121 r0 *1 118.1,6.8 NMOS_mst
M$121 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $122 r0 *1 122.1,6.8 NMOS_mst
M$122 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $123 r0 *1 126.1,6.8 NMOS_mst
M$123 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $124 r0 *1 130.1,6.8 NMOS_mst
M$124 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $125 r0 *1 134.1,6.8 NMOS_mst
M$125 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $126 r0 *1 138.1,6.8 NMOS_mst
M$126 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $127 r0 *1 142.1,6.8 NMOS_mst
M$127 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $128 r0 *1 146.1,6.8 NMOS_mst
M$128 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $129 r0 *1 150.1,6.8 NMOS_mst
M$129 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $130 r0 *1 154.1,6.8 NMOS_mst
M$130 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $131 r0 *1 158.1,6.8 NMOS_mst
M$131 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $132 r0 *1 162.1,6.8 NMOS_mst
M$132 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $133 r0 *1 166.1,6.8 NMOS_mst
M$133 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $134 r0 *1 170.1,6.8 NMOS_mst
M$134 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $135 r0 *1 174.1,6.8 NMOS_mst
M$135 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $136 r0 *1 178.1,6.8 NMOS_mst
M$136 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $137 r0 *1 182.1,6.8 NMOS_mst
M$137 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $138 r0 *1 186.1,6.8 NMOS_mst
M$138 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $139 r0 *1 190.1,6.8 NMOS_mst
M$139 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $140 r0 *1 194.1,6.8 NMOS_mst
M$140 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $141 r0 *1 198.1,6.8 NMOS_mst
M$141 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $142 r0 *1 202.1,6.8 NMOS_mst
M$142 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $143 r0 *1 206.1,6.8 NMOS_mst
M$143 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $144 r0 *1 210.1,6.8 NMOS_mst
M$144 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $145 r0 *1 214.1,6.8 NMOS_mst
M$145 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $146 r0 *1 218.1,6.8 NMOS_mst
M$146 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $147 r0 *1 222.1,6.8 NMOS_mst
M$147 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $148 r0 *1 226.1,6.8 NMOS_mst
M$148 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $149 r0 *1 230.1,6.8 NMOS_mst
M$149 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $150 r0 *1 234.1,6.8 NMOS_mst
M$150 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $151 r0 *1 238.1,6.8 NMOS_mst
M$151 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $152 r0 *1 242.1,6.8 NMOS_mst
M$152 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $153 r0 *1 246.1,6.8 NMOS_mst
M$153 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $154 r0 *1 250.1,6.8 NMOS_mst
M$154 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $155 r0 *1 254.1,6.8 NMOS_mst
M$155 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $156 r0 *1 258.1,6.8 NMOS_mst
M$156 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $157 r0 *1 262.1,6.8 NMOS_mst
M$157 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $158 r0 *1 266.1,6.8 NMOS_mst
M$158 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $159 r0 *1 270.1,6.8 NMOS_mst
M$159 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $160 r0 *1 274.1,6.8 NMOS_mst
M$160 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $161 r0 *1 278.1,6.8 NMOS_mst
M$161 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $162 r0 *1 282.1,6.8 NMOS_mst
M$162 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $163 r0 *1 286.1,6.8 NMOS_mst
M$163 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $164 r0 *1 290.1,6.8 NMOS_mst
M$164 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $165 r0 *1 294.1,6.8 NMOS_mst
M$165 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $166 r0 *1 298.1,6.8 NMOS_mst
M$166 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $167 r0 *1 302.1,6.8 NMOS_mst
M$167 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $168 r0 *1 306.1,6.8 NMOS_mst
M$168 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $169 r0 *1 310.1,6.8 NMOS_mst
M$169 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $170 r0 *1 314.1,6.8 NMOS_mst
M$170 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $171 r0 *1 318.1,6.8 NMOS_mst
M$171 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $172 r0 *1 322.1,6.8 NMOS_mst
M$172 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $173 r0 *1 326.1,6.8 NMOS_mst
M$173 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $174 r0 *1 330.1,6.8 NMOS_mst
M$174 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $175 r0 *1 334.1,6.8 NMOS_mst
M$175 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $176 r0 *1 338.1,6.8 NMOS_mst
M$176 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $177 r0 *1 342.1,6.8 NMOS_mst
M$177 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $178 r0 *1 346.1,6.8 NMOS_mst
M$178 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $179 r0 *1 350.1,6.8 NMOS_mst
M$179 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $180 r0 *1 354.1,6.8 NMOS_mst
M$180 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $181 r0 *1 358.1,6.8 NMOS_mst
M$181 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $182 r0 *1 362.1,6.8 NMOS_mst
M$182 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $183 r0 *1 366.1,6.8 NMOS_mst
M$183 Y \$4 gnd gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=5.1P PS=6.4U PD=6.4U
* device instance $184 r0 *1 370.1,6.8 NMOS_mst
M$184 gnd \$4 Y gnd NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS CLKBUF_X16
